US08937091B2
2,6-dimethyl-4-t-butyl-1-acryloylbenzene 8242
5-t-butylmetaxylene (0.5 mL), acryloyl chloride (120 mg), and aluminium chloride (150 mg) were reacted in dichloromethane (1.5 mL) at from −40° C. to room temperature for 2 hours. The resultant was treated in the same manner as described in Example 1 to obtain the title compound (120 mg).

reactant | 5-t-butylmetaxylene | 0.5 mL | C(C)(C)(C)C=1C=C(C=C(C1)C)C | C12H18
reactant | acryloyl chloride | 120 mg | C(C=C)(=O)Cl | C3H3ClO
reactant | aluminium chloride | 150 mg | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | dichloromethane | 1.5 mL | ClCCl | CH2Cl2
product | 2,6-dimethyl-4-t-butyl-1-acryloylbenzene | 120 mg | CC1=C(C(=CC(=C1)C(C)(C)C)C)C(C=C)=O | C15H20O
